US07498358B2
3,4,5-trifluorobenzenesulfonyl chloride
The flask containing the SOCl2/H2O solution is cooled again to −10° C. and a catalytic amount of Cu(I)Cl (˜50 mg) was added. The solution turns dark green in color. The flask was fitted with a 500 mL addition funnel (previously chilled to 0° C.) and the 3,4,5-trifluorodiazobenzene solution was quickly transferred to the funnel. The solution was immediately added dropwise over a period of 3 min. After addition, the reaction mixture slowly turns darker green in color, but after stirring for 5 min becomes bright, lime green. The reaction was stirred for an additional hour while warming to room temperature. The reaction mixture was transferred to a separatory funnel and extracted with CH2Cl2 (3×200 mL). The organic phases are combined and dried over anhydrous Na2SO4, filtered, and concentrated to give a dark-bronze oil (79.5 g, 83%).

reactant | SOCl2 H2O | O=S(Cl)Cl.O
reactant | 3,4,5-trifluorodiazobenzene | FC=1CC(C=C(C1F)F)=[N+]=[N-] | C6H3F3N2
product | 3,4,5-trifluorobenzenesulfonyl chloride | 79.5 g, 83% | FC=1C=C(C=C(C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
